US09085552B1
4. Preparation of 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid (4)
To a mixture of 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine (2.0 g, 10 mmol) in water (10.0 mL) and tert-butanol (5.0 mL) was added a solution of sodium permanganate (NaMnO4) (5.0 g, 35 mmol) in water (15 mL) over 20 minutes. The mixture was heated to 80° C. and stirred overnight. Additional sodium permanganate (0.711 g, 5.0 mmol) in water (2.0 mL) was added after 16 hours and the mixture was stirred for another 4 hours. The dark mixture was filtered through Celite®, washed with water (5.0 mL) and ethyl acetate (3×15 mL). The aqueous layer was extracted with ethyl acetate (25 mL) and acidified with concentrated hydrochloric acid to pH 5 leading to white precipitate which was collected by filtration. The filtrate was concentrated leading to white precipitate which was collected by filtration and washed with water (2.0 mL). The solid products were combined and dried under high vacuum to afford the title compound as a white solid (1.0 g, 46%): 1H NMR (400 MHz, DMSO-d6) δ 9.11 (s, 2H), 8.59 (d, J=4.7, 1H), 8.28 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 7.58 (dd, J=8.0, 4.4 Hz, 1H); 13C NMR (101 MHz, DMSO-d6) δ 162.24, 148.35, 141.46, 140.21, 135.01, 134.01, 126.45, 124.23, 115.34; ESIMS m/z 224 ([M+H]+).

reactant | 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 10 mmol, 2.0 g | ClC1=NN(CC1C)C=1C=NC=CC1 | C9H10ClN3
reactant | sodium permanganate | 35 mmol, 5.0 g | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | sodium permanganate | 5.0 mmol, 0.711 g | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | water | 10.0 mL | O | H2O
reactant | water | 15 mL | O | H2O
reactant | water | 2.0 mL | O | H2O
solvent | tert-butanol | 5.0 mL | C(C)(C)(C)O | C4H10O
product | 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid | 1.0 g, 46% | ClC1=NN(C=C1C(=O)O)C=1C=NC=CC1 | C9H6ClN3O2
